US07589232B2
Step b) Formation of 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(4-methoxybenzoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-4-methoxybenzamide and NaOH as a white powder (45%). 1H NMR (MeOD, 300 MHz) δ 7.53-7.42 (m, 5H), 7.41-7.28 (m, 6H), 7.09 (m, 1H), 6.77 (m, 3H), 5.11 (s, 2H), 3.73 (s, 3H). M− (ESI): 510; M+ (ESI): 511.9. HPLC, Rt: 4.89 min (Purity: 97.6%).

reactant | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-4-methoxybenzamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(C2=CC=C(C=C2)OC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C33H26ClNO5
reactant | NaOH | [OH-].[Na+]
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(4-methoxybenzoyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C2=CC=C(C=C2)OC)=O)C=C1 | C30H22ClNO5
